US06569854B1
0.72 g of succinic anhydride and then 1.5 cm3 of 95% 1-(pyrrolidinocarbonylmethyl)-piperazine are added to 20 cm3 of dioxane in a round-bottomed flask kept under a nitrogen atmosphere. After stirring for 4.75 hours at room temperature, the solvent is evaporated under reduced pressure (2.7 kPa) at 20° C., to give 2.4 g of 4-oxo-4-[4-(2-oxo-2-pyrrolidin-1-ylethyl)piperazin-1-yl]butyric acid in the form of a pale yellow paste which is used as it is.

reactant | succinic anhydride | 0.72 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 1-(pyrrolidinocarbonylmethyl)-piperazine | 1.5 cm3 | N1(CCCC1)C(=O)CN1CCNCC1 | C10H19N3O
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
product | 4-oxo-4-[4-(2-oxo-2-pyrrolidin-1-ylethyl)piperazin-1-yl]butyric acid | 2.4 g | O=C(CCC(=O)O)N1CCN(CC1)CC(N1CCCC1)=O | C14H23N3O4
